US06495551B1
N-[(5S)-3-(3-Fluoro-4-(4-pyrimidin-2-ylthiomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide (174 mg, 0.5 mM) and pyrimidine-2-thione (112 mg, 1 mM) were suspended in dry acetonitrile (20 ml), and N,N-dimethylformamide dineopentyl acetal (462 mg, 2 mM) added. The mixture was heated to reflux for 6 hours giving a solution. Solvent was evaporated, the residue dissolved in dichloromethane, and subjected to mplc on silica, eluting with a gradient increasing in polarity from 0 to 20% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the title product (204 mg) as a gum.

reactant | N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide | 0.5 mM, 174 mg | FC=1C=C(C=CC1N1C=NC(=C1)CO)N1C(O[C@H](C1)CNC(C)=O)=O | C16H17FN4O4
reactant | pyrimidine-2-thione | 1 mM, 112 mg | N1C(N=CC=C1)=S | C4H4N2S
reactant | N,N-dimethylformamide dineopentyl acetal | 2 mM, 462 mg | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[(5S)-3-(3-Fluoro-4-(4-pyrimidin-2-ylthiomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 204 mg | FC=1C=C(C=CC1N1C=NC(=C1)CSC1=NC=CC=N1)N1C(O[C@H](C1)CNC(C)=O)=O | C20H19FN6O3S
